US04689338
Using the method of Example 1, 4-chloro-3-nitroquinoline was reacted with 2-(phenyl)ethylamine to provide yellow solid 3-nitro-4-[2-(phenyl)ethylamino]quinoline, the melting point of the crude product being 174°-180° C.

reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2-(phenyl)ethylamine | C1(=CC=CC=C1)CCN | C8H11N
product | 3-nitro-4-[2-(phenyl)ethylamino]quinoline | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCC1=CC=CC=C1 | C17H15N3O2
